US07148226B2
1-(2-Chloro-4-{2-[2-cyclopentyl-4-hydroxy-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-phenyl)-cyclopropanecarbonitrile
The title compound was prepared analogously to Example B(97) (where 1-(2-Chloro-4-{2-[2-cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-phenyl)-cyclopropanecarbonitrile was substituted in place of 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione in that example and 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde in place of the 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde in that example. 1H NMR (400 MHz, CDCl3) δ: 1.38–1.42 (m, 2H), 1.47–1.73 (m, 8H), 1.73–1.77 (m, 2H), 2.01–2.21 (m, 2H)), 2.39–2.50 (m, 1H), 2.56 (d, J=16 Hz, 1H), 2.63–2.69 (m, 2H), 2.80 (d, J=16 Hz, 1H), 3.3 (s, 3H), 3.75 (d, J=16 Hz, 1H), 3.85 (d, J=16 Hz, 1H), 7.29 (dd, J=8, 1.6 Hz, 1H), 7.43–7.45 (m, 2H), 8.74 (d, J=2.3 Hz, 1H), 9.01 (dd, J=2.3, 1.1 Hz, 1H), 10.9 (s, 1H). C29H30ClN5O3.0.25: C, 64.68; H, 6.08; N, 13.00. Found: C, 64.78; H, 5.74; N, 12.65. MS (ESI): 532.2(M+H+).

reactant | 1-(2-Chloro-4-{2-[2-cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-phenyl)-cyclopropanecarbonitrile | ClC1=C(C=CC(=C1)CCC1(OC(C(=C(C1)O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)C1CCCC1)C1(CC1)C#N | C30H32ClN5O3
reactant | 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=C(C1OC)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
reactant | 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
product | 1-(2-Chloro-4-{2-[2-cyclopentyl-4-hydroxy-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-phenyl)-cyclopropanecarbonitrile | ClC1=C(C=CC(=C1)CCC1(OC(C(=C(C1)O)CC1=NN2C(N=CC(=C2)C)=N1)=O)C1CCCC1)C1(CC1)C#N | C29H30ClN5O3
